US07361659B2
To a stirred solution of tert-butyl N-(2-aminoethyl)-carbamate (0.46 g, 2.87 mmol) in THF (6 ml) was added at 0° C. (ice water bath) 5-chloro-4-nitrothiophene-2-sulfonyl chloride (0.5 g, 1.91 mmol) and triethylamine (0.29 ml, 2.1 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by flash chromatography on silica gel (ethyl acetate/heptane), and subsequent crystallization from ethyl acetate/hexane to yield [2-(5-chloro-4-nitro-thiophene-2-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (0.53 g, 72%) as a light yellow solid. MS (ISP) 384.1 [(M−H)−], mp 147° C.

reactant | tert-butyl N-(2-aminoethyl)-carbamate | 2.87 mmol, 0.46 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 1.91 mmol, 0.5 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
reactant | triethylamine | 2.1 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | [2-(5-chloro-4-nitro-thiophene-2-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 0.53 g, 72% | C(C)(C)(C)OC(NCCNS(=O)(=O)C=1SC(=C(C1)[N+](=O)[O-])Cl)=O | C11H16ClN3O6S2
